US04374840
22.2 g of 2-phenyl-3-isopropyl-5-hydroxymethyloxazolidine was dissolved in 130 ml of anhydrous dimethyl formamide, and with stirring, 50% sodium hydride was added. To the resulting solution was added a solution of 22.75 g of 2-chloro-6-(tetrahydro-2-pyranyloxy)methylpyridine in 250 ml of anhydrous dimethyl formamide. The mixture was stirred at 80° C. for 1 hour. After the reaction, the solvent was distilled off under reduced pressure, and 500 ml of 10% hydrochloric acid was added. The mixture was stirred at 80° C. for 20 minutes. The reaction solution was evaporated to dryness under reduced pressure to afford 10 g (yield 41.6%) of 1-isopropylamino-3-(6-hydroxymethyl-2-pyridyloxy)-2-propanol.

reactant | 2-phenyl-3-isopropyl-5-hydroxymethyloxazolidine | 22.2 g | C1(=CC=CC=C1)C1OC(CN1C(C)C)CO | C13H19NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-6-(tetrahydro-2-pyranyloxy)methylpyridine | 22.75 g | ClC1=NC(=CC=C1)COC1OCCCC1 | C11H14ClNO2
solvent | dimethyl formamide | 130 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 250 ml | CN(C=O)C | C3H7NO
product | 1-isopropylamino-3-(6-hydroxymethyl-2-pyridyloxy)-2-propanol | 10 g, yield 41.6% | C(C)(C)NCC(COC1=NC(=CC=C1)CO)O | C12H20N2O3
